ingame-level-circuit
* Component Conduit{industria:insulated_tin_wire} ConduitPos{A=NodePos{block=[6 -60 -13],node=0},B=NodePos{block=[4 -60 -13],node=1}}
* Simple resistor for different uses [ r=0.002 ]
R1_0 node[pos6_-60_-13_id0_lid0_lnml] node[pos4_-60_-13_id1_lid0_lnml] 0.002
* Simple resistor for different uses [ r=0.002 ]
R1_1 node[pos6_-60_-13_id0_lid1_lnmn] node[pos4_-60_-13_id1_lid1_lnmn] 0.002
* Component Block{industria:portable_fuel_generator} BlockPos{x=6, y=-60, z=-13}
* Current limited power source [ i_nominal=8.695652173913043, v_nominal=230 ]
R1_2 node[pos6_-60_-13_id0_lid2_lnmpower_shunt] node[pos6_-60_-13_id0_lid0_lnml] 0.001
I1_2 N003_2 N002_2 8.695652173913043
V1_2 N001_2 N002_2 230
I2_2 N003_2 node[pos6_-60_-13_id0_lid1_lnmn] 8.695652173913043
*S4_2 node[pos6_-60_-13_id0_lid2_lnmpower_shunt] N001_2 N001_2 node[pos6_-60_-13_id0_lid2_lnmpower_shunt] source_diosw
*S5_2 N003_2 N002_2 N002_2 N003_2 source_diosw
*S6_2 N003_2 node[pos6_-60_-13_id0_lid1_lnmn] node[pos6_-60_-13_id0_lid1_lnmn] N003_2 source_diosw

D1_2 N001_2 node[pos6_-60_-13_id0_lid2_lnmpower_shunt] D_ideal
D2_2 N002_2 N003_2 D_ideal
D3_2 node[pos6_-60_-13_id0_lid1_lnmn] N003_2 D_ideal

.model D_ideal D(Ron=0 Roff=1G Vfwd=0 Vrev=1G)
*.model source_diosw sw vt=0 vh=0.001 ron=0.001 roff=10e9
* Component Block{industria:electro_magnetic_coil} BlockPos{x=4, y=-60, z=-13}
* Junction resistor
R1_3 node[pos4_-60_-13_id1_lid0_lnml] node[pos4_-60_-13_id0_lid0_lnml] 0.015
* Junction resistor
R1_4 node[pos4_-60_-13_id1_lid1_lnmn] node[pos4_-60_-13_id0_lid1_lnmn] 0.015
* Load-Resistor with fixed power consumtion [ p_nominal=500.0 ]
* B1_5 node[pos4_-60_-13_id0_lid0_lnml] node[pos4_-60_-13_id0_lid1_lnmn] P=500.0
R1_5 node[pos4_-60_-13_id0_lid0_lnml] node[pos4_-60_-13_id0_lid1_lnmn] R=max(V(node[pos4_-60_-13_id0_lid0_lnml], node[pos4_-60_-13_id0_lid1_lnmn])**2/500.0, 0.1)

R0GND node[pos6_-60_-13_id0_lid0_lnml] 0 1

.op
.end
